US08420820B2
A solution of propiophenone in THF (0.2 ml, 1.505 mmol) is slowly added dropwise at room temperature with stirring to a solution of ethynylmagnesium bromide (4 ml, 2.0 mmol, 0.5 M in THF) in THF (5 ml). The slightly yellow reaction solution was stirred at RT for 1 h. The reaction mixture is acidified using 1N HCl, during which a turbidity initially formed which disappeared with an increase in the pH into the acidic region. Diethyl ether was added to the solution, the aqueous phase was separated off, and the organic phase was extracted once with water. The organic phase was dried using sodium sulfate, filtered off and evaporated to dryness, giving 3-phenylpent-1-yn-3-ol (233 mg, 0.001 mol) in 65% yield. The crude mixture is reacted further without further purification.

reactant | propiophenone | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | ethynylmagnesium bromide | 2.0 mmol, 0.5 M, 4 ml | C(#C)[Mg]Br
reactant | HCl | 1N | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.505 mmol, 0.2 ml | C1CCOC1 | C4H8O
product | 3-phenylpent-1-yn-3-ol | 0.001 mol, 233 mg, 65% yield | C1(=CC=CC=C1)C(C#C)(CC)O | C11H12O
